US05521216
1 ml aqueous solution of 82 mg oxone (0.134 mmol) was added dropwise to 1 ml of 30 mg of 5,7-dihydroxy-2-methylthiochromone (0.134 mmol) in methanol at room temperature, and the mixture was stirred for 1 hour. After addition of water, the reaction solution was extracted twice with ethyl acetate, and the organic layer was washed with saturated NaCl water and dried over sodium sulfate anhydride. The solvent was distilled off under reduced pressure, to give 32 mg of 5,7-dihydroxy-2-methylsulfinylchromone (containing a little sulfone). This product was subjected without purification to the following reaction.

reactant | oxone | 0.134 mmol, 82 mg | OOS(=O)[O-].[K+]
reactant | 5,7-dihydroxy-2-methylthiochromone | 0.134 mmol, 1 ml, 30 mg | OC1=C2C(C=C(OC2=CC(=C1)O)C)=S | C10H8O3S
reactant | water | O | H2O
reactant | methanol | CO | CH4O
product | 5,7-dihydroxy-2-methylsulfinylchromone | 32 mg | OC1=C2C(C=C(OC2=CC(=C1)O)S(=O)C)=O | C10H8O5S
